US07825265B2
2-(1-Phenyl-cyclohexyl)-thiophene
Phenyl cyclohexene (50 mg) and thiophene (100 mg) were dissolved in 33% HBr in acetic acid (0.5 mL). The mixture was stirred at room temperature over night. Tlc indicated full conversion of the starting material. Dichloromethane (10 mL) was added. The organic phase was washed with saturated NaHCO3 (3×10 mL), dried Na2SO4 and concentrated in vacuo. The desired product was afforded after flash chromatography (eluent: dichloromethane). Yield: 39 mg. LC/MS purity (UV/MS): 100/90%, Rt 6.22 min. M+1: 243

reactant | Phenyl cyclohexene | 50 mg | C1(=CC=CC=C1)C1=CCCCC1 | C12H14
reactant | thiophene | 100 mg | S1C=CC=C1 | C4H4S
reactant | Dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | HBr | Br | BrH
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | 2-(1-Phenyl-cyclohexyl)-thiophene | C1(=CC=CC=C1)C1(CCCCC1)C=1SC=CC1 | C16H18S
